US05089513
2-Bromomethylnaphthalene was reacted with 2-allyloxy-3-hydroxybenzaldehyde using the conditions described in Example 1 to give 2-allyloxy-3-(naphth-2-ylmethoxy)benzaldehyde as an oil in 95% yield. A mixture of the product so obtained (1.3 g), p-toluenethiol (0.8 g), sodium hydride (55% w/w dispersion in oil, 0.28 g) and dimethylformamide (10 ml) was heated to 100° C. for 1.3 hours. The mixture was partitioned between ethyl acetate and water. The organic layer was washed with water, dried (MgSO4) and evaporated. The residue was purified by column chromatography using a 4:1 v/v mixture of methylene chloride and ethyl acetate as eluent. There was thus obtained 2-hydroxy-3-(naphth-2-ylmethoxy)benzaldehyde (0.7 g), m.p. 105° C.

reactant | 2-Bromomethylnaphthalene | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | 2-allyloxy-3-hydroxybenzaldehyde | C(C=C)OC1=C(C=O)C=CC=C1O | C10H10O3
product | 2-allyloxy-3-(naphth-2-ylmethoxy)benzaldehyde | 95% yield | C(C=C)OC1=C(C=O)C=CC=C1OCC1=CC2=CC=CC=C2C=C1 | C21H18O3
